US08071807B2
To (3-benzyloxy-5-trifluoromethyl-phenyl)-acetic acid (1.5 g, 5.4 mmol) in EtOH (30 mL) was added sulfuric acid (1 mL), and the mixture was stirred overnight at room temperature. Once no starting material was seen by analytical LCMS, the reaction was worked up to give (3-Benzyloxy-5-trifluoromethyl-phenyl)-acetic acid ethyl ester.

reactant | (3-benzyloxy-5-trifluoromethyl-phenyl)-acetic acid | 5.4 mmol, 1.5 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C(F)(F)F)CC(=O)O | C16H13F3O3
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | EtOH | 30 mL | CCO | C2H6O
product | (3-Benzyloxy-5-trifluoromethyl-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC(=C1)C(F)(F)F)OCC1=CC=CC=C1)=O | C18H17F3O3
